US07348337B2
Preparation of 4-(1-Phenyl-1-(5-carboxyethylpyrazol-3-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester:
A mixture of 4-(1-iodo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (0.094 g, 0.235 mmol), Pd2dba3 (0.008 g, 0.0086 mmol)), tri-2-furylphosphine (0.014 g, 0.062 mmol) and 3-(tri-n-butylstannyl)-5-carbethoxypyrazole (0.107 g, 0.249 mmol) in THF (2 mL) was heated at 70° C. for 18 h. The reaction was then partitoned with H2O— EtOAc, the layers were separated and the aqueous phase was re-extracted with EtOAc (×2). The combined organic phase was washed (H2O, brine), dried (Na2SO4) and evaporated, and the residue was purified by preparative HPLC to afford the title compound (0.054 g, 55%) as a light yellow solid:

reactant | 4-(1-iodo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.235 mmol, 0.094 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)I | C17H22INO2
reactant | tri-2-furylphosphine | 0.062 mmol, 0.014 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 3-(tri-n-butylstannyl)-5-carbethoxypyrazole | 0.249 mmol, 0.107 g | C(CCC)[Sn](C1=NNC(=C1)C(=O)OCC)(CCCC)CCCC
reactant | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd2dba3 | 0.0086 mmol, 0.008 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(1-Phenyl-1-(5-carboxyethylpyrazol-3-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.054 g, 55% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=NNC(=C1)CCC(=O)O)C1=CC=CC=C1 | C23H29N3O4
